US07572820B2
2-(2-Methylpropyl)-4-(trifluoromethyl)-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 using 2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 5-[3-(trifluoromethyl)phenyl]-3-(chloromethyl)-1,2,4-oxadiazole: 1H NMR (400 MHz, CDCl3) δ 8.30 (s, 1H), 8.22 (d, J=7.8 Hz, 1H), 7.85 (d, J=7.8 Hz, 1H), 7.66 (m, 2H), 7.54 (d, J=8.3 Hz, 1H), 6.63 (d, J=1.2 Hz, 1H), 5.48 (s, 2H), 2.84 (d, J=7.3 Hz, 2H), 2.14 (m, 1H), 1.08 (d, J=6.6 Hz, 6H); MS (ES) m/z 493 (M+1).

reactant | 2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC(CC=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N)C | C14H13F3N2
reactant | 5-[3-(trifluoromethyl)phenyl]-3-(chloromethyl)-1,2,4-oxadiazole | FC(C=1C=C(C=CC1)C1=NC(=NO1)CCl)(F)F | C10H6ClF3N2O
product | 2-(2-Methylpropyl)-4-(trifluoromethyl)-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole-5-carbonitrile | CC(CC=1N(C2=CC=C(C(=C2C1)C(F)(F)F)C#N)CC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F)C | C24H18F6N4O
